US07622583B2
To a solution of 8-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridin-2-yl}-hydroxy-methyl)-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester (562.7 mg, 0.91 mmol) in dioxane (4 mL) was added preactivated MnO2 (932.9 mg, 9.12 mmol), and the resulted mixture was heated at 80° C. for two hour. The resulted mixture was cooled to r.t., and filtered. The solid was washed with EtOAc (20 mL×3). EtOAc washing solution was combined with dioxane filtrate, and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide 8-{5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-2,3-dihydro-benzo [1,4]oxazine-4-carboxylic acid tert-butyl ester (510.2 mg) as yellow syrup. MS m/z: 676.0 (M+H)+.

reactant | 8-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridin-2-yl}-hydroxy-methyl)-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester | 0.91 mmol, 562.7 mg | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2C(O)C2=NC=C(C=C2N(COC)S(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)Cl | C28H28Cl2F3N3O7S
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 9.12 mmol, 932.9 mg | O=[Mn]=O
product | 8-{5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-2,3-dihydro-benzo [1,4]oxazine-4-carboxylic acid tert-butyl ester | 510.2 mg | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2C(=O)C2=NC=C(C=C2N(COC)S(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)Cl | C28H26Cl2F3N3O7S
